US09079866B2
N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]benzenesulfonamide
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and N-(2-bromophenyl)benzenesulfonamide. MS (ESI): mass calcd. for C22H17FN4O2S, 420.11; m/z found, 421.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 9.73 (s, 1H), 8.38 (s, 1H), 8.04 (s, 1H), 7.85-7.75 (m, 1H), 7.59-7.46 (m, 5H), 7.29-7.10 (m, 6H), 6.71 (s, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | N-(2-bromophenyl)benzenesulfonamide | BrC1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C12H10BrNO2S
product | N-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]benzenesulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1)F | C22H17FN4O2S
